US06268363B1
44-1) 3-(Naphthalen-1-yl)-1-(thiophen-2-yl)-prop2-en-1-one
3.12 g(20 mmol) of 1-naphthaldehyde and 2.52 g(20 mmol) of 2-acetylthiophene were dissolved in 20 ml of methanol and 800 mg(20 mmol) of sodium hydroxide was slowly added thereto. The mixture was reacted at room temperature for 8 hours and then the solid thus produced was filtered and dried. The filtrate was adjusted to pH 4-6 using 1N hydrochloric acid solution and extracted with ethyl acetate. The organic solvent was removed under reduced pressure and the residue was subjected to column chromatography(eluent: hexane/ethyl acetate=4/1, v/v) to give 4.23 g(16 mmol, Yield 80%) of the title compound together with the filtered solid.

reactant | 1-naphthaldehyde | 20 mmol, 3.12 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 2-acetylthiophene | 20 mmol, 2.52 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | sodium hydroxide | 20 mmol, 800 mg | [OH-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 20 ml | CO | CH4O
product | 3-(Naphthalen-1-yl)-1-(thiophen-2-yl)-prop2-en-1-one | 16 mmol, 4.23 g, Yield 80% | C1(=CC=CC2=CC=CC=C12)C=CC(=O)C=1SC=CC1 | C17H12OS
